US07528142B2
6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylthio)pyrimidin-4-amine
To a mixture of 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylthio)pyrimidin-4-amine (150 g, 0.58 mol), 3-cyclopropyl-3-fluoroazetidine hydrochloride (132.2 g, 0.87 mol) was added diisopropylethylamine (208 g, 1.61 mol) and isopropanol (1.125 L) and then heated to reflux for 23 hours. The reaction was cooled to slightly hazy solution to 85° C. and filtered and the homogeneous solution concentrated to a minimal volume. EtOAc was added (1 L) and concentrated to minimal volume. EtOAc (1 L) and H2O (1 L) were added and the layers separated (organic started to crystallize product during the extraction). The aqueous layer was further extracted with EtOAc (500 ml). Concentrated the 1st organic to dryness to give a white solid. Hexane (750 ml) was added to the 2nd organic extract and the slurry was stirred at ambient temperature, then cooled to 0° C. for 30 min. Filtered and washed with copious Heptane. The filter cake was dried under vacuum. The filter cake and the white solid from the 1st extraction were combined to afford 155.1 g of the desired product. (155.1 g, 77%). 1H NMR (DMSO, 400 MHz) 0.44 (2H, m), 0.60 (2H, m), 1.38-1.43 (1H, m), 2.18 (3H, s), 2.42 (3H, s), 3.89-3.97 (4H, m), 5.92 (1H, br s), 6.04 (1H, br s), 9.23 (1H, s), 11.86 (1H, s). ES+ 335

reactant | 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylthio)pyrimidin-4-amine | 0.58 mol, 150 g | ClC1=CC(=NC(=N1)SC)NC1=CC(=NN1)C | C9H10ClN5S
reactant | 3-cyclopropyl-3-fluoroazetidine hydrochloride | 0.87 mol, 132.2 g | Cl.C1(CC1)C1(CNC1)F
reactant | diisopropylethylamine | 1.61 mol, 208 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isopropanol | 1.125 L | C(C)(C)O | C3H8O
solvent | Hexane | 750 ml | CCCCCC | C6H14
product | 6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylthio)pyrimidin-4-amine | 155.1 g | C1(CC1)C1(CN(C1)C1=CC(=NC(=N1)SC)NC1=CC(=NN1)C)F | C15H19FN6S
